US06090802
(1) tert-Butyl (3S)-3-[(2R)-2-[2,3-di(4-nitrobenzyloxycarbonyl)guanidino]-2-methylacetylamino]-1-pyrrolidinecarboxylate
To a solution of tert-butyl (3S)-3-[(2R)-2-amino-2-methylacetylamino]-1-pyrrolidinecarboxylate (448 mg) in anhydrous tetrahydrofuran (20 ml), 4-nitrobenzyl [(4-nitrobenzyloxy)carbonylimino-pyrazol-1-ylmethyl]carbamate (776 mg) was added under ice cooling. The resulting mixture was treated in a similar manner to that described in Referential Example 16-(1), whereby the title compound (1.096 g) was obtained as an amorphous substance.

reactant | tert-butyl (3S)-3-[(2R)-2-amino-2-methylacetylamino]-1-pyrrolidinecarboxylate | 448 mg | N[C@@H](C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C12H23N3O3
reactant | 4-nitrobenzyl [(4-nitrobenzyloxy)carbonylimino-pyrazol-1-ylmethyl]carbamate | 776 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(N2N=CC=C2)NC(OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C20H16N6O8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3S)-3-[(2R)-2-[2,3-di(4-nitrobenzyloxycarbonyl)guanidino]-2-methylacetylamino]-1-pyrrolidinecarboxylate | 1.096 g | [N+](=O)([O-])C1=CC=C(COC(=O)N=C(N[C@@H](C(=O)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C)C)NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C29H35N7O11
